US08420678B2
4-Dodecyl-N-(5-(hydroxymethyl)-1,3,4-thiadiazol-2-yl)benzenesulfonamide (128).
To a solution of p-dodecylbenzenesulfonyl chloride (200 mg, 0.58 mmol) in pyridine (3 mL) was added 2-amino-5-hydroxymethyl-1,3,4-thiadiazole (70 mg, 0.53 mmol). The reaction mixture was stirred at room temperature for 4.5 h, then 2 M HCl (8 mL) was added to quench the reaction. The mixture was extracted with ethyl acetate (3×20 mL). The organic extracts were washed with water (10 mL), brine (10 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel (70-230 mesh) eluted with CH2Cl2:methanol 19:1 to give the product as a solid, mp 138-139° C., in 65% yield (151 mg, 0.34 mmol); 1H NMR (300 MHz, DMSO-d6) δ 0.84 (t, 3H, J=6.6 Hz), 1.22 (m, 18H), 1.54-1.57 (m, 2H), 2.64 (t, 2H, J=7.8 Hz), 4.57 (s, 2H), 6.05 (br, 1H), 7.35 (d, 2H, J=8.1 Hz), 7.67 (d, 2H, J=7.8 Hz); 13C NMR (75 MHz, DMSO-d6) δ 13.9, 22.1, 28.6, 28.7, 28.8, 29.0, 30.6, 31.3, 34.9, 58.4, 125.8, 128.9, 139.2, 147.5, 161.1, 167.5; MS (LCQ, ESI+) Calcd for C21H34N3O3S2 440.2, found 440.2 (M+H)+; HRMS (ESI+, m/z) Calcd for C21H34N3O352 440.2042, found 440.2029 (M+H)+.

reactant | p-dodecylbenzenesulfonyl chloride | 0.58 mmol, 200 mg | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
reactant | 2-amino-5-hydroxymethyl-1,3,4-thiadiazole | 0.53 mmol, 70 mg | NC=1SC(=NN1)CO | C3H5N3OS
reactant | HCl | 2 M, 8 mL | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 4-Dodecyl-N-(5-(hydroxymethyl)-1,3,4-thiadiazol-2-yl)benzenesulfonamide | 65% yield | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC(=NN1)CO | C21H33N3O3S2
